US05665777
To a solution in THF (13 mL) of 5-(4-(4-cyanophenyl)phenoxy)pentanoic acid (0.50 g, 1.7 mmol), prepared as in step 1, was added DMF (10 μL, 0.13 mmol), and oxalyl chloride (0.16 mL, 1.9 mmol) and the reaction mixture was stirred for 2 hours. A solution in THF (2 mL) of O-tert-butyldimethylsilylhydroxylamine (0.30 g, 2.0 mmol) and triethylamine (0.25 mL, 1.8 mmol) was added dropwise via syringe and the reaction mixture was stirred for 3.5 hours. The reaction mixture was quenched with methanol and concentrated in vacuo. The residue was partitioned between aqueous 1M NaOH and ethyl ether, and the aqueous phase was extracted with ethyl ether. The aqueous phase was taken to pH 2 with concentrated HCl and extracted three times with dichloromethane. The combined dichloromethane extracts were dried over Na2SO4, filtered, and concentrated in vacuo to give a white solid. Recrystallization from ethyl acetate gave 5-[4-(4-cyanophenyl)phenoxy]pentanohydroxamic acid (0.24 g) as a white solid. mp 141.8°-142.6° C. 1H NMR (DMSO-d6) δ 1.59-1.84 (c, 4H), 2.03 (t, 2H, J=7.5 Hz), 4.03 (t, 2H, J=6 Hz), 7.06 (d, 2H, J=9 Hz), 7.69 (s, 1H), 7.72 (s, 1H), 7.81-7.92 (c, 4H), 8.71 (s, 1H), 10.39 (s, 1H). IR (KBr) 3200, 3030, 3010, 2860, 2240, 1630, 1600, 1540, 1520, 1490, 1470, 1460, 1390, 1290, 1250, 1180, 1110, 980, 850, 820, 630, 580, 530 cm-1. MS (DCI/NH3) 294 (M-16), 311 (M+H)+, 328 (M+NH4)+. Anal. Calcd for C18H18N2O3 : C, 69.66; H, 5.85; N, 9.03. Found: C, 69.54; H, 5.73; N, 8.99.

reactant | 5-(4-(4-cyanophenyl)phenoxy)pentanoic acid | 1.7 mmol, 0.50 g | C(#N)C1=CC=C(C=C1)C1=CC=C(OCCCCC(=O)O)C=C1 | C18H17NO3
reactant | DMF | 0.13 mmol, 10 μL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 1.9 mmol, 0.16 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | O-tert-butyldimethylsilylhydroxylamine | 2.0 mmol, 0.30 g | [Si](C)(C)(C(C)(C)C)ON | C6H17NOSi
reactant | triethylamine | 1.8 mmol, 0.25 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 13 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 5-[4-(4-cyanophenyl)phenoxy]pentanohydroxamic acid | 0.24 g | C(#N)C1=CC=C(C=C1)C1=CC=C(OCCCCC(=O)NO)C=C1 | C18H18N2O3
